US07816557B2
Racemic 3-(4-{5-methyl-1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yloxy]-hexyl}-benzoylamino)-propionic acid
The title compound is prepared in a manner substantially similar to Example 62 starting from 3-{4-[1-(6-chloro-pyridin-3-yloxy)-5-methyl-hexyl]-benzoylamino}-propionic acid methyl ester and 4-trifluoromethyl phenyl boronic acid. MS: 527.2[M−H]−.

reactant | 3-{4-[1-(6-chloro-pyridin-3-yloxy)-5-methyl-hexyl]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CCCC(C)C)OC=1C=NC(=CC1)Cl)=O)=O | C23H29ClN2O4
reactant | 4-trifluoromethyl phenyl boronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | Racemic 3-(4-{5-methyl-1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yloxy]-hexyl}-benzoylamino)-propionic acid | CC(CCCC(OC=1C=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C(=O)NCCC(=O)O)C=C1)C | C29H31F3N2O4
